* PDK direct method: IHP SG13G2 real HV PMOS pass transistor.
* The pass device is a real PDK PSP model; the XCEA/SSF drive is
* behavioral so the direct run is robust before full op-amp sizing.

.lib cornerMOShv.lib mos_tt
.options reltol=1e-5 abstol=1e-12 vntol=1e-8

.param rtop=950k
.param rbot=600k
.param a0=5000
.param rea=10k
.param fp_ea=120k
.param cea={1/(6.283185307179586*fp_ea*rea)}
.param cout=200p
.param esr=80m

Vvin vin 0 DC 3.3 AC 1
Vref vref 0 1.2
Iload vout 0 15m

* IHP SG13G2 HV PMOS pin order: d g s b.
Xmpass vout gate vin vin sg13_hv_pmos w=10u l=0.4u ng=10 m=180

Rtop vout fb {rtop}
Rbot fb 0 {rbot}

Eea_raw ea_raw 0 vref fb {a0}
Rea ea_raw ea {rea}
Cea ea 0 {cea}

Bslow slow_gate 0 V={min(max(V(vin)-V(ea),0),V(vin))}
Rgate slow_gate gate 150
Cgate gate vin 3p

Resr vout cout_node {esr}
Cout cout_node 0 {cout}
Rbleed vout 0 100meg

.control
set filetype=ascii
op
print v(vin) v(vout) v(fb) v(gate) v(ea)
ac dec 100 1k 1gig
wrdata results/pdk_direct_sg13g2_psr.csv frequency vdb(vout) vp(vout) vdb(gate)
meas ac psr_1meg find vdb(vout) at=1meg
quit
.endc

.end

