* Power-bounce suppression: conventional slow loop versus dual loop.

.include ../../circuits/paper_dual_loop_ldo.inc
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 method=gear

Vin_zero vin 0 0

Xconv vin bounce_conv paper_dual_loop_ldo params: rload=31 cout=200p esr=50m gfeed=50m gm_slow=30 fp_slow=120k gm_fast=0  fz_fast=20meg  fp_fast=5gig
Xdual vin bounce_dual paper_dual_loop_ldo params: rload=31 cout=200p esr=50m gfeed=50m gm_slow=72 fp_slow=120k gm_fast=15 fz_fast=400meg fp_fast=5gig

Istep_conv bounce_conv 0 PULSE(0 5.5m 2n 30p 30p 3n 6n)
Istep_dual bounce_dual 0 PULSE(0 5.5m 2n 30p 30p 3n 6n)

.tran 5p 25n 0 5p

.control
set filetype=ascii
run
wrdata results/small_signal_power_bounce.csv time v(bounce_conv) v(bounce_dual)
meas tran conv_max max v(bounce_conv) from=2n to=25n
meas tran conv_min min v(bounce_conv) from=2n to=25n
meas tran dual_max max v(bounce_dual) from=2n to=25n
meas tran dual_min min v(bounce_dual) from=2n to=25n
quit
.endc

.end

