* 25 mVpp, 1 MHz sawtooth supply-noise suppression.

.include ../../circuits/paper_dual_loop_ldo.inc
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 method=gear

Vin_ripple vin 0 PULSE(-12.5m 12.5m 0 900n 100n 1n 1u)

Xdual vin ldo_ripple paper_dual_loop_ldo params: rload=31 cout=200p esr=50m gfeed=50m gm_slow=72 fp_slow=120k gm_fast=15 fz_fast=20meg fp_fast=5gig

Etx_noise tx_noise 0 ldo_ripple 0 0.305
Erx_noise rx_noise 0 ldo_ripple 0 0.0305

.tran 1n 6u 0 1n

.control
set filetype=ascii
run
wrdata results/small_signal_sawtooth_noise.csv time v(vin) v(ldo_ripple) v(tx_noise) v(rx_noise)
meas tran ldo_max max v(ldo_ripple) from=1u to=6u
meas tran ldo_min min v(ldo_ripple) from=1u to=6u
meas tran tx_max max v(tx_noise) from=1u to=6u
meas tran tx_min min v(tx_noise) from=1u to=6u
meas tran rx_max max v(rx_noise) from=1u to=6u
meas tran rx_min min v(rx_noise) from=1u to=6u
quit
.endc

.end

