* 06_loop_gain_ac.cir
* Linearized approximate loop-gain model for intuition.
* The returned feedback signal is FB. With Vinj AC=1, vdb(fb) is loop gain magnitude.

.options reltol=1e-5 abstol=1e-12 vntol=1e-6

.param beta=0.6
.param a0=4000
.param fp_ea=20k
.param rea=10k
.param cea={1/(6.283185307179586*fp_ea*rea)}
.param gm_pass=0.6
.param vout_nom=2.0
.param iload=50m
.param rload={vout_nom/iload}
.param ro_pass=200
.param cout=10u
.param esr=50m

* Inject a 1 V AC signal at the broken-loop input.
Vinj inj 0 AC 1

* Error amplifier: negative sign models the inverting feedback path.
Eea_raw ea_raw 0 inj 0 {-a0}
Rea ea_raw ea {rea}
Cea ea 0 {cea}

* Pass device small-signal transconductance drives the output node.
Gpass 0 vout ea 0 {gm_pass}

* Output node impedance.
Rload vout 0 {rload}
Ropass vout 0 {ro_pass}
Resr vout cout_node {esr}
Cout cout_node 0 {cout}

* Feedback factor.
Efb fb 0 vout 0 {beta}

.ac dec 200 1 100meg

.control
set filetype=ascii
run
wrdata 06_loop_gain_ac.csv frequency vdb(fb) vp(fb)
quit
.endc

.end

