* 01_operating_point.cir
* Basic DC operating point of a 2.0 V PMOS LDO.

.include ./ldo_macromodel.inc
.options reltol=1e-5 abstol=1e-12 vntol=1e-6

.param vin_nom=3.3
.param vref_nom=1.2
.param iload=50m

Vvin vin 0 {vin_nom}
Vref vref 0 {vref_nom}
Iload vout 0 {iload}

Xldo vin vout vref fb gate ldo_pmos params: rtop=400k rbot=600k cout=10u esr=50m fp_ea=20k wpass=30000u

.op

.control
set filetype=ascii
run
print v(vin) v(vref) v(vout) v(fb) v(gate)
wrdata 01_operating_point.csv v(vin) v(vref) v(vout) v(fb) v(gate)
quit
.endc

.end

