* 11_paper_xcea_ssf_macro_transient.cir
* Large-signal transient with 25 mVpp, 1 MHz sawtooth supply ripple
* and a small fast load-current disturbance.

.include ./paper_ldo_xcea_ssf_macro.inc
.options reltol=1e-5 abstol=1e-12 vntol=1e-8 method=gear

* 3.3 V supply with 25 mVpp, 1 MHz sawtooth-like ripple.
Vvin vin 0 PULSE(3.2875 3.3125 0 900n 100n 1n 1u)
Vref vref 0 1.2

* 15 mA static load plus a narrow 5 mA dynamic component.
Iload_dc vout 0 15m
Iload_step vout 0 PULSE(0 5m 2u 1n 1n 80n 500n)

Xldo vin vout vref fb gate xcea ssf paper_ldo_xcea_ssf_macro

.tran 1n 6u 0 1n

.control
set filetype=ascii
run
wrdata 11_paper_xcea_ssf_macro_transient.csv time v(vin) v(vout) v(fb) v(gate) v(xcea) v(ssf)
meas tran vout_max max v(vout) from=1u to=6u
meas tran vout_min min v(vout) from=1u to=6u
meas tran gate_max max v(gate) from=1u to=6u
meas tran gate_min min v(gate) from=1u to=6u
quit
.endc

.end

